US05227481
B. Preparation of 3-[(2-chloroethyl)ethylamino]-N,N,N-trimethyl-1-propanaminium iodide hydrochloride
A total of 28 ml of thionyl chloride was added dropwise, with stirring, to 27.35 g of 3-[(2-hydroxyethyl) ethylamino]-N,N,N-trimethyl-1-propanaminium iodide hydrochloride in 200 ml of toluene at 50° C. Upon completion of the addition the mixture was stirred at 50° for 15 minutes, and then heated at 80° C. for 3 hours. The reaction mixture was steam distilled to remove toluene. Organic chloride analysis on the resulting aqueous solution showed the corresponding alkyl chloride was obtained in 88% yield.

reactant | thionyl chloride | 28 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-[(2-hydroxyethyl) ethylamino]-N,N,N-trimethyl-1-propanaminium iodide hydrochloride | 27.35 g | Cl.[I-].OCCN(CCC[N+](C)(C)C)CC
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 3-[(2-chloroethyl)ethylamino]-N,N,N-trimethyl-1-propanaminium iodide hydrochloride | 88% yield | Cl.[I-].ClCCN(CCC[N+](C)(C)C)CC | InChI=1S/C10H24ClN2.ClH.HI/c1-5-12(9-7-11)8-6-10-13(2,3)4;;/h5-10H2,1-4H3;2*1H/q+1;;/p-1
